US08497264B2
To a solution of N-(7-bromo-3-chloro-1-fluoro-5-(2-hydroxyethyl)-5H-chromeno[2,3-c]pyridin-5-yl)-2-methylpropane-2-sulfinamide (5.8 g, 12.14 mmol) in dry MeOH (100 mL) at −20° C. was added a mixture of MeOH (80 mL)/acetylchloride (20 ml). The resulting reaction mixture was stirred at −20° C. for 30 min and then quenched with 10% aqueous solution of Na2CO3. DCM was added, the organic phase was separated and dried over Na2SO4. The solution concentrated under reduced pressure and the residue was purified by chromatography (0-50% EtOAc/hexanes) to afford 2-(5-amino-7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)ethanol (4.0 g, 10.71 mmol, 88% yield) as a light yellow solid-foam.

reactant | N-(7-bromo-3-chloro-1-fluoro-5-(2-hydroxyethyl)-5H-chromeno[2,3-c]pyridin-5-yl)-2-methylpropane-2-sulfinamide | 12.14 mmol, 5.8 g | BrC=1C=C2C(C3=C(C(=NC(=C3)Cl)F)OC2=CC1)(CCO)NS(=O)C(C)(C)C | C18H19BrClFN2O3S
reactant | acetylchloride | 20 ml | C(C)(=O)Cl | C2H3ClO
solvent | MeOH | 100 mL | CO | CH4O
solvent | MeOH | 80 mL | CO | CH4O
product | 2-(5-amino-7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)ethanol | 10.71 mmol, 4.0 g, 88% yield | NC1(C2=CC(=CC=C2OC=2C(=NC(=CC21)Cl)F)Br)CCO | C14H11BrClFN2O2
